US08247401B2
Step A: Methyl 3-isopropenyl-5-(5-methylpyridin-2-yl)benzoate
To a solution of methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate (1.00 g, 3.27 mmol) in N,N-dimethylformamide (9.80 mL) and water (3.27 mL) was 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.921 mL, 4.90 mmol), palladium(II) acetate (37.0 mg, 0.163 mmol), 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt (278 mg, 0.490 mmol) and diisopropylamine (1.16 mL, 8.17 mmol) and the mixture was heated to 80° C. After 50 min, the reaction was allowed to cool to ambient temperature and filtered. Purification by reverse phase chromatography (C-18, 90% water/acetonitrile→40% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (864 mg). MS 268.2 (M+1).

reactant | methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | 3.27 mmol, 1.00 g | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
reactant | 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.90 mmol, 0.921 mL | C(=C)(C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt | 0.490 mmol, 278 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | diisopropylamine | 8.17 mmol, 1.16 mL | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 9.80 mL | CN(C=O)C | C3H7NO
solvent | water | 3.27 mL | O | H2O
catalyst | palladium(II) acetate | 0.163 mmol, 37.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3-isopropenyl-5-(5-methylpyridin-2-yl)benzoate | 864 mg | C(=C)(C)C=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C17H17NO2
